US04604390
5-Amino-2-[2-(diethylamino)ethyl]-2H[1]benzothiopyrano[4,3,2-cd]indazol-7-ol
Reaction of 5-amino-N,N-diethyl-7-methoxy-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine with 48% HBr as described in Example 64 gave the product.

reactant | 5-amino-N,N-diethyl-7-methoxy-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(S2)C(=CC=C1)OC | C20H24N4OS
reactant | HBr | Br | BrH
product | 5-Amino-2-[2-(diethylamino)ethyl]-2H[1]benzothiopyrano[4,3,2-cd]indazol-7-ol | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(S2)C(=CC=C1)O | C19H22N4OS
